US07553969B1
To a solution of Z-Val-OH (50 g) in THF (500 ml), ethyl iodide (127.3 ml, 1592 mmol) was added under cooling with ice and then sodium hydride (60% in oil) (23.88 g, 597 mmol) was added slowly, followed by stirring at 60° C. for 12 hours. The reaction mixture was mixed with water and washed with ether. The thus obtained aqueous layer was rendered acidic by the addition of dilute hydrochloric acid and extracted with ethyl acetate. The resultant was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated to remove the solvent under reduced pressure. The thus obtained residue was subjected to silica gel column chromatography (H:EA:AcOH=100:50:1), giving Z-N-Et-Val-OH (V2) (29.29 g, 53%).

reactant | Z-Val-OH | 50 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | ethyl iodide | 1592 mmol, 127.3 ml | C(C)I | C2H5I
reactant | sodium hydride | 597 mmol, 23.88 g | [H-].[Na+]
reactant | water | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | Z-N-Et-Val-OH | 29.29 g, 53% | C(=O)(OCC1=CC=CC=C1)N([C@@H](C(C)C)C(=O)O)CC | C15H21NO4
